US05602277
EXAMPLE 18 3-[Amino(cyanoimino)methyl]aminobenzoic acid hydrate (4:1).
To a suspension of methyl 3-[amino(cyanoiminomethyl)]aminobenzoate (7.3 g, 33.47 mmol) in 20 mL of deionized water was added 1N sodium hydroxide (34 mL, aqueous) and the mixture heated at reflux for 2 h. The resulting mixture was filtered and the filtrate neutralized with 6N HCl. The turbid solution was filtered and the clear filtrate further acidified using 6N HCl to pH 4.0-4.5. The white solid was separated through filtration, washed with 30 mL of water, dried in air followed by drying in a pistol at toluene reflux in vacuo to give 1.26 (18%) of the title compound, mp>300° C. Further acidification gave more solid 3.96 g (58%) which was slightly impure.

reactant | methyl 3-[amino(cyanoiminomethyl)]aminobenzoate | 33.47 mmol, 7.3 g | NC(=NC#N)NC=1C=C(C(=O)OC)C=CC1 | C10H10N4O2
reactant | sodium hydroxide | 1N, 34 mL | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 3-[Amino(cyanoimino)methyl]aminobenzoic acid hydrate | O.NC(=NC#N)NC=1C=C(C(=O)O)C=CC1 | InChI=1S/C9H8N4O2.H2O/c10-5-12-9(11)13-7-3-1-2-6(4-7)8(14)15;/h1-4H,(H,14,15)(H3,11,12,13);1H2
